US07696193B2
1-[3-(3-Cyclopentyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxymethyl)-phenyl]-1-pyrrolidin-yl-methanone (E96)
Example 96 (E96) was prepared from pyrrolidine and 3-(3-cyclopentyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxymethyl)-benzoic acid (E95) using the procedure outlined for Example 90 (E90); MS (ES+), m/e 419 [M+H]+.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 3-(3-cyclopentyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxymethyl)-benzoic acid | C1(CCCC1)N1CCC2=C(CC1)C=C(C=C2)OCC=2C=C(C(=O)O)C=CC2 | C23H27NO3
product | 1-[3-(3-Cyclopentyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxymethyl)-phenyl]-1-pyrrolidin-yl-methanone | C1(CCCC1)N1CCC2=C(CC1)C=C(C=C2)OCC=2C=C(C=CC2)C(=O)N2CCCC2 | C27H34N2O2
